US05800733
3.47 g of trifluoromethanesulphonic anhydride dissolved in 10ml of dichloromethane were added dropwise at 0° C. to a solution of 4.77 g of 6-[4'-[trans-4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate and 1.32 g of lutidine in 100 ml of dichloromethane. The reaction mixture was stirred at 0° C. for 90 minutes and subsequently poured into 100 ml of water and extracted twice with 50 ml of dichloromethane. The combined organic phases were washed twice with 50 ml of water each time, dried over magnesium sulphate and concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) gave 5.09 g of [4'-[trans-4-[3-(trifluoromethanesulphonyloxy)-propyl]-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate.

reactant | trifluoromethanesulphonic anhydride | 3.47 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-[4'-[trans-4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate | 4.77 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCO | C30H40O4
reactant | lutidine | 1.32 g | N1=C(C=CC=C1C)C | C7H9N
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | [4'-[trans-4-[3-(trifluoromethanesulphonyloxy)-propyl]-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate | 5.09 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C(F)(F)F | C31H39F3O6S
